US06455587B1
Preparation of Nα,Nε-di-(9-Fluorenylmethoxycarbonyl)-L-lysine (Compound No. 71)
The reaction of 9-fluorenylmethyl chloroformate with L-lysine according to the conditions described in example 2 provided the title product in 71% yield.

reactant | 9-fluorenylmethyl chloroformate | ClC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C15H11ClO2
reactant | L-lysine | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
product | Nα,Nε-di-(9-Fluorenylmethoxycarbonyl)-L-lysine | 71% yield | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@@H](CCCCNC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)C(=O)O | C36H34N2O6
